US06313312B1
2-Cyclohexyloxy-1-iodoethane
To a solution of 2-cyclohexyloxyethyl 4-bromobenzenesulfonate (Preparation 86, 120 mg, 0.3 mmol) in acetone (5 ml) was added sodium iodide (90 mg, 0.6 mmol) and the reaction mixture was left to stir at room temperature for 18 h. A further equivalent of sodium iodide was added and the reaction mixture was stirred at room temperature for a further 18 h after which time the reaction mixture was heated to 80° C. for 5 h. The resulting precipitate was filtered and the filtrate was diluted with water (100 ml) and extracted with dichloromethane (100 ml). The extract was washed with brine (100 ml), dried (MgSO4) and concentrated in vacuo to give the title compound as a colourless oil (50 mg, 60%).

reactant | 2-cyclohexyloxyethyl 4-bromobenzenesulfonate | 0.3 mmol, 120 mg | BrC1=CC=C(C=C1)S(=O)(=O)OCCOC1CCCCC1 | C14H19BrO4S
reactant | sodium iodide | 0.6 mmol, 90 mg | [I-].[Na+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-Cyclohexyloxy-1-iodoethane | 50 mg, 60% | C1(CCCCC1)OCCI | C8H15IO
